US07674795B2
Carry out the procedure as in Example 6, starting from 1.57 g of 4-(1H-benzimidazol-2-yl)-fluoren-9-one oxime (Z,E), obtained in Example 68, and 5.6 mg of Raney Nickel in 80 ml of ethanol and 80 ml of tetrahydrofuran for 4 hours at 60° C. under a hydrogen pressure of 1 bar. After purification by making a paste in diisopropyl ether, we obtain 1.31 g of 4-(1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine, in the form of a white powder, with the following characteristics:

reactant | 4-(1H-benzimidazol-2-yl)-fluoren-9-one oxime | 1.57 g | N1C(=NC2=C1C=CC=C2)C2=CC=CC=1C(C3=CC=CC=C3C21)=NO | C20H13N3O
catalyst | Raney Nickel | 5.6 mg | [Ni] | Ni
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-(1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine | 1.31 g | N1C(=NC2=C1C=CC=C2)C2=CC=CC=1C(C3=CC=CC=C3C21)N | C20H15N3
